US04316906
Hydrolysis of (cis)-1-(2-acetylthio-1-oxoethyl)-4-methylthio-L-proline with an aqueous ammonia solution according to the procedure of Example 2 yields 1-(2-mercapto-1-oxoethyl)-cis-4-methylthio-L-proline.

reactant | (cis)-1-(2-acetylthio-1-oxoethyl)-4-methylthio-L-proline | C(C)(=O)SCC(=O)N1[C@H](C(=S)O)C[C@@H](C1)C | C10H15NO3S2
reactant | ammonia | N | H3N
product | 1-(2-mercapto-1-oxoethyl)-cis-4-methylthio-L-proline | SCC(=O)N1[C@H](C(=S)O)C[C@@H](C1)C | C8H13NO2S2
